US06248739B1
A flask containing 4-(4-aminobenzyl)morpholine from Preparation No. 22 (0.48 g) is treated with tetrahydrofuran (10 mL) and terahydrothiopyran-4-one (0.35 gm) under an argon atmosphere. The solution is treated with acetic acid (0.20 mL) followed by sodium triacetoxyborohydride (0.80 g). After stirring overnight, the mixture is concentrated under reduced pressure. The residue is partitioned between dichloromethane and dilute aqueous sodium hydroxide. The aqueous is back-extracted with dichloromethane. The combined organic layers are washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue is purified by flash column chromatography on silica eluting with 2% to 6% methanol in dichloromethane and then by recrystallization from cyclohexane to afford 0.53 g of N-[4-(4-morpholinylmethyl)phenyl]tetrahydro-2H-thiopyran-4-amine as a tan solid.

reactant | 4-(4-aminobenzyl)morpholine | NC1=CC=C(CN2CCOCC2)C=C1 | C11H16N2O
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | terahydrothiopyran-4-one | 0.35 gm | S1CCC(CC1)=O | C5H8OS
reactant | sodium triacetoxyborohydride | 0.80 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 0.20 mL | C(C)(=O)O | C2H4O2
product | N-[4-(4-morpholinylmethyl)phenyl]tetrahydro-2H-thiopyran-4-amine | 0.53 g | N1(CCOCC1)CC1=CC=C(C=C1)NC1CCSCC1 | C16H24N2OS
